US04866089
Preparation of 7-isobutoxy-8-methoxy-2,2-dimethyl-4-chromanone
In 50 ml of a 10% sodium hydroxide solution under nitrogen 5.2 g (20 millimoles) of 7-isobutoxy-8-hydroxy-2,2-dimethyl-4-chromanone are dissolved, whereupon 2.6 g (2 ml, 21 millimoles) of dimethyl sulfate are added and the reaction mixture is intensively stirred for 3 hours at 50° C. The mixture is diluted with 100 ml of icecold water, extracted three times with 50 ml of chloroform each, the organic phase is washed twice with 40 ml of water dried over sodium sulfate and the solvent is evaporated. Thus 5.2 g of the desired compound are obtained in the form of yellow oil, yield 93%.

reactant | 7-isobutoxy-8-hydroxy-2,2-dimethyl-4-chromanone | C(C(C)C)OC1=CC=C2C(CC(OC2=C1O)(C)C)=O | C15H20O4
reactant | dimethyl sulfate | 21 millimoles, 2 ml, 2.6 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 7-isobutoxy-8-methoxy-2,2-dimethyl-4-chromanone | 5.2 g, yield 93% | C(C(C)C)OC1=CC=C2C(CC(OC2=C1OC)(C)C)=O | C16H22O4
